US07465815B2
2,2,4,5,6-Pentamethyl-1-benzofuran-3 (2H)-one
Using 2-(3,4,5-trimethylphenoxy)-2-methylpropionic acid obtained in Reference Example 40, the title compound was synthesized in the same manner as in Reference Example 41. Yield 90%. Melting point: 77-78° C. (hexane).

reactant | 2-(3,4,5-trimethylphenoxy)-2-methylpropionic acid | CC=1C=C(OC(C(=O)O)(C)C)C=C(C1C)C | C13H18O3
solvent | hexane | CCCCCC | C6H14
product | 2,2,4,5,6-Pentamethyl-1-benzofuran-3 (2H)-one | Yield 90% | CC1(OC2=C(C1=O)C(=C(C(=C2)C)C)C)C | C13H16O2
